US07511050B2
Step B: 8-cyclobutyl-3-pentyl-2-thioxo-1,2,3,7-tetrahydro-6H-purin-6-one
The mixture of N-(5-amino-6-oxo-3-pentyl-2-thioxo-1,2,3,6-tetrahydropyrimidin-4-yl)cyclobutanecarboxamide (720 mg, 2.3 mmol) and 2.5 M of sodium hydroxide in water (25 mL) and methanol (25 mL) was stirred at 70° C. for 1 hour. After cooling to room temperature, the reaction mixture was concentrated to remove methanol and then acidified to pH=5. The precipitate formed was filtered and dried to yield the desired product (500 mg, 73.7%). LCMS calculated for C14H21N4OS(M+H): 293.1; found: 293.1.

reactant | N-(5-amino-6-oxo-3-pentyl-2-thioxo-1,2,3,6-tetrahydropyrimidin-4-yl)cyclobutanecarboxamide | 2.3 mmol, 720 mg | NC1=C(N(C(NC1=O)=S)CCCCC)NC(=O)C1CCC1 | C14H22N4O2S
reactant | sodium hydroxide | 2.5 M | [OH-].[Na+]
solvent | water | 25 mL | O | H2O
solvent | methanol | 25 mL | CO | CH4O
product | 8-cyclobutyl-3-pentyl-2-thioxo-1,2,3,7-tetrahydro-6H-purin-6-one | 500 mg, 73.7% | C1(CCC1)C1=NC=2N(C(NC(C2N1)=O)=S)CCCCC | C14H20N4OS
